US07179823B1
A mixture of ethyl 3-[3-ethoxy-1-(4-hydroxy-3-methoxybenzyl)-1H-pyrazol-4-yl]propionate (505 mg), 3-picolyl chloride hydrochloride (476 mg), potassium carbonate (601 mg), and N,N-dimethylformamide (10 ml) was stirred at room temperature overnight. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-ethoxy-1-[3-methoxy-4-(3-pyridylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate (531 mg, yield: 83%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate.

reactant | ethyl 3-[3-ethoxy-1-(4-hydroxy-3-methoxybenzyl)-1H-pyrazol-4-yl]propionate | 505 mg | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC(=C(C=C1)O)OC | C18H24N2O5
reactant | 3-picolyl chloride hydrochloride | 476 mg | Cl.N1=CC(=CC=C1)CCl
reactant | potassium carbonate | 601 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-[3-ethoxy-1-[3-methoxy-4-(3-pyridylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | 531 mg, yield: 83% | C(C)OC1=NN(C=C1CCC(=O)OCC)CC1=CC(=C(C=C1)OCC=1C=NC=CC1)OC | C24H29N3O5
